data/specific_train_final.csv
"C[C:21]1=[CH:20]C=C(C=C1)C.[OH:10]>>CC1=C[CH:20]([C:21](C=C1)C)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(COO[O:20][N+:21](=O)[O-])C(C)O>>CC(COO[O:20])C(C)O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=CC=C1C)CC.[OH:10]>>[H:20][OH:10].CCC1=C(C(=CC=C1)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:10]CO[N+](=O)[O-].[O:20][O]>>C[CH:10](CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](CO)([O:22])OC.[OH:10]>>[H:20][OH:10].CO[C:21](=[O:22])CO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"c1ccccc1[C](=O)[O:10][O:20]OO>>c1ccccc1[C](=O)[O:10].[O:20]OO 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"CCOC(C)[O:20][O:21]N=O>>CCOC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(OC=O)[O:10][O:11][O:20][N+:21](=O)[O-]>>C(OC=O)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(=O)C(C)OO[O:20][N+:21](=O)[O-]>>CCC(=O)C(C)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:14][O:15][O:16].[CH3:13][C:5]([CH2:11][OH:12])([CH:6]([CH2:8][O:9][O:10])[OH:7])[O:4][N+:2](=[O:1])[O-:3]>>[H:14][O:10][O:9][CH2:8][CH:6]([C:5]([CH3:13])([CH2:11][OH:12])[O:4][N+:2](=[O:1])[O-:3])[OH:7].[O:15][O:16] 10-10,14; 14,15-10,14; 14,15-15",Room Temperature,Propagation,abstraction
"CC(C)(C(CO)[O:20][O:21]N=O)O>>CC(C)(C(CO)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:10][O:9][CH:8]=[CH:7][C:2]([CH3:1])([CH2:3][O:4][O:5][H:6])[O:11][O:12]>>[H:6][O:5][O:4][CH2:3][C:2]([CH3:1])([CH:7][CH:8]=[O:9])[O:11][O:12][H:10] 12-12,10; 9,10-10,12; 9,10-9,8; 7,8-7; 7,8-9,8",Room Temperature,Propagation,abstraction
"[H:7][C:6]([CH2:12][O:13][H:14])([C:5]([CH3:17])([CH2:15][OH:16])[O:4][N+:2](=[O:1])[O-:3])[O:8][O:9][N:10]=[O:11]>>[H:7][C:6]([CH2:12][O:13][H:14])([C:5]([CH3:17])([CH2:15][OH:16])[O:4][N+:2](=[O:1])[O-:3])[O:8].[N:10](=[O:11])[O:9] 9,8-9; 8,9-8",Room Temperature,Initiation,homolyze
"CC(COCO[O:20])O.[N:10]=O>>CC(COCO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(CC2C1CCC(C(CCC2=C)[O:20][O:21]N=O)(C)O)C>>CC1(CC2C1CCC(C(CCC2=C)[O:20])(C)O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(=O)[CH:20]C(C1(C(O1)C=O)C)O.[O:10][O]>>CCC(=O)[CH:20](C(C1(C(O1)C=O)C)O)[O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCOC(CO)O[O:20].[N+](=O)([O-])[O:10]>>CCCCOC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C(C)CC.[Cl:10]>>[H:20][Cl:10].CCC(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCC(C)(OC(=O)C)O[O:10]>>[H:20][O:10]OC(C)(CC)OC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(CO)O[O:20].[N:10]=O>>CCC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)CCO[O:20].[N+](=O)([O-])[O:10]>>C1=CC=C(C=C1)CCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][C:8]([CH3:10])([CH3:11])[O:7][CH2:6][O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:9][C:8]([CH3:10])([CH3:11])[O:7][CH2:6][O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:8][O:7][O:6][CH:5][C:4](=[CH2:3])[CH3:9].[CH2:1]=[O:2]>>[H:8][O:7].[CH3:9][C:4](=[CH2:3])[CH:5]=[O:6].[CH2:1]=[O:2] 5-5,6; 6,7-5,6; 6,7-7",Room Temperature,Propagation,retroaddition
"C(COC[O:20][O:21][O])O.[N+](=O)[O-]>>C(COC[O:20])O.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C)[O:20][O:21]N=O>>CCCC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCC(C(C)O[O:10])O[N+](=O)[O-]>>[H:20][O:10]OC(C)C(CCC)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CC(=O)C)O[O:20].[N:10]=O>>CC(CC(=O)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10]1C=CC2(C(C1[O:20][O:21]2)O)C>>CC1(C=C[C:10]2(C(C1O)[O:20]2)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCOC(CO)[O:21][O:20][O].[N+](=O)[O-]>>CCCCOC(CO)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=C)C1CCC([CH:10]C1)(C)O.[O:20][O]>>CC(=C)C1CCC([CH:10](C1)[O:20][O])(C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C(=O)C)C(C)(C)O.[OH:10]>>[H:20][OH:10].CC(=O)[CH:21]C(C)(C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C(C2(C(C([C:10]1O)OO2)O)C)C.[O:20][O]>>CC1=C([C:10](C2C(C1(OO2)C)O)(O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
